US07973164B2
N-(1-ethylpyrazol-3-yl)-2-[4-(6-carboxy-7-methoxyquinolin-4-yloxy)phenyl]acetamide
Using an analogous procedure to that described in Example 8, N-(1-ethylpyrazol-3-yl)-2-[4-(7-methoxy-6-methoxycarbonylquinolin-4-yloxy)phenyl]acetamide was reacted with lithium hydroxide to give the title compound in 92% yield; 1H NMR: (DMSOd6) 1.34 (t, 3H), 3.67 (s, 2H), 3.99 (s, 3H), 4.0-4.06 (m, 2H), 6.43 (d, 1H), 6.55 (d, 1H), 7.29 (d, 2H), 7.49 (d, 2H), 7.53 (s, 1H), 7.58 (d, 1H), 8.58 (s, 1H), 8.71 (d, 1H), 10.71 (s, 1H); Mass Spectrum: M+H+ 447.

reactant | N-(1-ethylpyrazol-3-yl)-2-[4-(7-methoxy-6-methoxycarbonylquinolin-4-yloxy)phenyl]acetamide | C(C)N1N=C(C=C1)NC(CC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C(=O)OC)OC)=O | C25H24N4O5
reactant | lithium hydroxide | [OH-].[Li+]
product | N-(1-ethylpyrazol-3-yl)-2-[4-(6-carboxy-7-methoxyquinolin-4-yloxy)phenyl]acetamide | 92% yield | C(C)N1N=C(C=C1)NC(CC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C(=O)O)OC)=O | C24H22N4O5
